US07968570B2
I4: 7-Chloro-2-(3-phenylpropyl)-5-(1-pyridin-2-ylmethyl-1H-pyrazol-4-yl)-2,3-dihydroisoindol-1-one
To a solution of 7-chloro-2-(3-phenylprop-2-ynyl)-5-(1-pyridin-2-ylmethyl-1H-pyrazol-4-yl)-2,3-dihydroisoindol-1-one (30 mg, 0.07 mmol) in EtOH (5 mL) was added 10% Pd on carbon (16.5 mg). A H2 balloon was attached to the flask. After 16 hours the reaction was filtered and concentrated to provide the title compound (29.7 mg, 98%) as a yellow oil. 1H NMR (300 MHz, CDCl3): δ (ppm) 8.61 (ddpg, 1H), 7.88 (m, 2H), 7.70 (t, 1H), 7.48 (d, 2H), 7.40 (d, 2H), 7.23 (m, 8H), 5.49 (s, 2H), 4.32 (s, 2H), 3.68 (t, 2H), 2.70 (t, 2H), 2.00 (tt, 2H).

reactant | 7-chloro-2-(3-phenylprop-2-ynyl)-5-(1-pyridin-2-ylmethyl-1H-pyrazol-4-yl)-2,3-dihydroisoindol-1-one | 0.07 mmol, 30 mg | ClC=1C=C(C=C2CN(C(C12)=O)CC#CC1=CC=CC=C1)C=1C=NN(C1)CC1=NC=CC=C1 | C26H19ClN4O
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd on carbon | 16.5 mg | [Pd] | Pd
product | 7-Chloro-2-(3-phenylpropyl)-5-(1-pyridin-2-ylmethyl-1H-pyrazol-4-yl)-2,3-dihydroisoindol-1-one | 29.7 mg, 98% | ClC=1C=C(C=C2CN(C(C12)=O)CCCC1=CC=CC=C1)C=1C=NN(C1)CC1=NC=CC=C1 | C26H23ClN4O
